US04435405
3-(p-Carboxyphenyl)quinolin-2-thione (6.87 g.) was added to a suspension of sodium hydride (3.9 g. of a 50% w/w dispersion in mineral oil) in dimethylformamide (50 ml.) at 0°-5°. When all the hydrogen had evolved, 2-dimethylaminoethyl chloride hydrochloride (3.5 g.) was added and the mixture was stirred at ambient temperature for 16 hr. The mixture was poured into ice-water (300 ml.), filtered, and the filtrate adjusted to pH 7 with 2 M-hydrochloric acid. The resulting mixture was filtered and the solid residue was dissolved in 2 M-hydrogen chloride in methanol at 0°. The solvent was evaporated and the solid residue was crystallised from methanol-ethyl acetate to give 3-(p-carboxyphenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride, m.p. 246°-7°.

reactant | 3-(p-Carboxyphenyl)quinolin-2-thione | 6.87 g | C(=O)(O)C1=CC=C(C=C1)C=1C(NC2=CC=CC=C2C1)=S | C16H11NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-dimethylaminoethyl chloride hydrochloride | 3.5 g | Cl.CN(CCCl)C
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(p-carboxyphenyl)-2-(2-dimethylaminoethylthio)quinoline hydrochloride | Cl.C(=O)(O)C1=CC=C(C=C1)C=1C(=NC2=CC=CC=C2C1)SCCN(C)C | InChI=1S/C20H20N2O2S.ClH/c1-22(2)11-12-25-19-17(13-16-5-3-4-6-18(16)21-19)14-7-9-15(10-8-14)20(23)24;/h3-10,13H,11-12H2,1-2H3,(H,23,24);1H
